US06051605
4-[2-(3-Phenoxy-propylamino)-ethoxy]-phenol hydrobromide
A solution of 3-phenoxy-1-propanamine (24.2 g, 160 mmol) in 100 mL of 2-propanol is heated to reflux and treated slowly with a solution of 4-(2-bromoethoxy)phenol (17.4 g, 80 mmol) in 150 mL of 2-propanol. The mixture is heated at reflux for 4 days, then cooled and partitioned between ethyl ether and aqueous sodium bicarbonate solution. The organic layer is evaporated and the residue recrystallized from ethanol to give 6.0 g (20%) of product, mp 204-205° C.

reactant | 3-phenoxy-1-propanamine | 160 mmol, 24.2 g | O(C1=CC=CC=C1)CCCN | C9H13NO
reactant | 4-(2-bromoethoxy)phenol | 80 mmol, 17.4 g | BrCCOC1=CC=C(C=C1)O | C8H9BrO2
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
solvent | 2-propanol | 150 mL | CC(C)O | C3H8O
product | 4-[2-(3-Phenoxy-propylamino)-ethoxy]-phenol hydrobromide | 6.0 g, 20% | Br.O(C1=CC=CC=C1)CCCNCCOC1=CC=C(C=C1)O | InChI=1S/C17H21NO3.BrH/c19-15-7-9-17(10-8-15)21-14-12-18-11-4-13-20-16-5-2-1-3-6-16;/h1-3,5-10,18-19H,4,11-14H2;1H
